US06008352
1. 1-(Isoquinolin-1-yl)piperazine
A solution of 2-chloroisoquinoline (5 g) in 20 mL of toluene is added dropwise to a refluxing solution of piperazine (20 g) in 150 mL of toluene. The solution is heated for an additional 48 h. After cooling to 0° C. for 0.5 h, the solution is filtered. The filtrate is then extracted with 10% acetic acid. The aqueous extracts are washed with ether, basified and subsequently extracted with dichloromethane. The dichloromethane layer is finally washed with water, dried and concentrated. The material is placed under vacuum overnight to yield the title compound (6.8 g, m.p. 54-56° C.). 1H NMR (CDCl3) 8.14 (d, J=5.5 Hz, 1 H), 8.10 (d, J=8.5 Hz, 1 H), 7.74 (d, J=8.5 Hz, 1 H), 7.60 (t, J=7.2 Hz, 1 H), 7.50 (t, J=7.6 Hz, 1 H), 7.24 (d, J=5.5 Hz, 1 H), 3.39 (t, J=5.0Hz, 4 H), 3.16 (t, J=5.0Hz, 4 H).

reactant | 2-chloroisoquinoline | 5 g | ClN1CC2=CC=CC=C2C=C1 | C9H8ClN
reactant | piperazine | 20 g | N1CCNCC1 | C4H10N2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(Isoquinolin-1-yl)piperazine | 6.8 g | C1(=NC=CC2=CC=CC=C12)N1CCNCC1 | C13H15N3
